US06624304B1
A solution of an alkali halodifluoroacetate such as sodium chlorodifluoroacetate in a solvent (for example, glyme, diglyme) is added over a period of 4 to 8 hours (preferably 6 hours) to a solution of dibenzosuberenone (for example in diglyme) with stirring and under nitrogen, maintaining the reaction temperature at 160°-165° C. Other reaction temperatures may be employed depending upon the reactants used, as described in Ciganek et al., “Imine Analogues of Tricyclic Antidepressants,” J. Med. Chem., 1981, 24,336-41; or in Coyne and Cusic, “Aminoalkyldibenzo[a,e]cyclopropa[c]cycloheptene Derivatives. A Series of Potent Antidepressants,” J. Med. Chem., 1974, Vol. 17, No. 1, 72-75. The reaction mixture is brought to room temperature, then poured into water and extracted (e.g., with diethylether or pentane). The 1,1-difluoro-1a,10b-dihydrodibenzo[a,e]cyclopropa[c]cyclohepten-6(1H)-one is isolated and purified by conventional means, for example, the organic phase is washed with water, dried (e.g., over Na2SO4), evaporated, and the residue is recrystallized (e.g., from ethanol, and optionally recrystallized again, e.g., from acetone/hexane).

reactant | sodium chlorodifluoroacetate | ClC(C(=O)[O-])(F)F.[Na+]
reactant | glyme | C(OC)COC | C4H10O2
reactant | diglyme | COCCOCCOC | C6H14O3
reactant | dibenzosuberenone | C1=CC=C2C(=C1)C=CC3=CC=CC=C3C2=O | C15H10O
solvent | water | O | H2O
product | 1,1-difluoro-1a,10b-dihydrodibenzo[a,e]cyclopropa[c]cyclohepten-6(1H)-one | FC1(C2C3=C(C(C4=C(C21)C=CC=C4)=O)C=CC=C3)F | C16H10F2O
